Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L temporal lobe epilepsy

 
Major Surgical or Invasive Procedure:
Left temporal craniotomy for left temporal lobectomy

 
History of Present Illness:
___ yo M with h/o L temporal lobe epilepsy with complex
partial seizures and occasional grand mal seizures. This started
approximately ___ years ago and he has had increasing frequency 
of
seizures requiring medication adjustments. He reports no recent
seizures but does have feelings ___ which have preceded
seizures in the past. He has been evaluated by neurology and the
focus of the seizures appears to come from the left temporal
lobe. He had a recent ___ study which showed L cerebral
dominance and R sided memory. 

 
Past Medical History:
L temporal lobe epilepsy, s/p splenectomy after MVC trauma

- ADHD

 
Social History:
___
Family History:
Family Hx: Parents both abused drugs, additional history 
unknown.
History of a paternal first cousin with seizures.
 
Physical Exam:
Gen: WD/WN, comfortable, NAD.
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2 mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally

Reflexes: B T Br Pa Ac
Right     ___  1  1
Left      ___  1  1

Coordination: normal on finger-nose-finger, rapid alternating
movements

Handedness Right

On Discharge:
A&Ox3
PERRL
diplopia bilaterally
No pronator drift
EOMs intact
Face symmetrical
Full strength throughout
Incision c/d/i
 
Pertinent Results:
MRI head ___: 1. Incidentally noted developmental venous
anomaly in the right frontal lobe. 2. Minimal asymmetry of the
lateral ventricles of right larger than left. This is likely
developmental in nature. 3. No masses or cortical lesions were
identified. 

MRI head ___:
IMPRESSION: Stable appearance of incidentally noted right 
frontal and left 
cerebellar developmental venous anomalies. Otherwise, 
unremarkable appearance of the brain, limited presurgical 
planning post-contrast MR sequences performed only. 

CT Head ___:
FINDINGS: The patient is status post left temporal craniotomy 
and partial left temporal lobectomy, with expected post-surgical 
changes with overlying soft tissues and pneumocephalus in the 
resection bed as well as layering non-dependently along the 
bifrontal convexities. Scattered additional foci of 
pneumocephalus are seen.  
Layering hyperdensity along the resection bed (2:11) could 
reflect small 
amount of layering blood. Hypodensity in the left temporal horn 
alsolikely 
reflects a small amount of blood. The residual left temporal 
horn is 
hypodense, which likely reflects edema. No hydrocephalus is 
seen. There is 
no shift of normally midline structures.  
The prior MR demonstrated that the left lateral ventricle is 
asymmetrically smaller than the right; however, it may even be 
slightly compressed giving an even smaller appearance on the 
current examination.  
  
IMPRESSION: Status post left temporal lobectomy with 
post-surgical changes as described above, with layering blood 
along the resection margin and in the temporal horn of the left 
lateral ventricle and slight mass effect on the left lateral 
ventricle.  

CT Head ___:
IMPRESSION: Status post temporal lobectomy with interval 
decrease in the 
degree of pneumocephalus without other change. 

MRI Head ___:
FINDINGS: The patient is status post left temporal lobectomy 
with expected 
post-operative changes including scalp swelling, a small 
subdural fluid 
collection, and hyperintensity on FLAIR at the margins of the 
surgical site.  There is also slow diffusion at the periphery of 
the left temporal lobectomy site. In the setting of acute 
surgery, it is impossible to distinguish surgical trauma from 
possible infarction in these areas. No other abnormalities are 
detected. The remainder of the brain demonstrates no evidence of 
hemorrhage, edema, masses, or infarction. 
  
CONCLUSION: Status post left temporal lobectomy with expected 
post-operative changes. Foci of slow diffusion at the margins of 
the surgical site may reflect surgical trauma or infarction. 

 
Brief Hospital Course:
___ y/o M with L temporal lobe seizures presents for elective L 
temporal lobectomy. Patient was taken to the OR on ___. OR 
course was uncomplicated. Post-operatively he was admitted to 
the ICU for monitoring. His exam remained stable and he was 
transferred to the floor on ___. Later that day, he had an 
episode of speech arrest and a STAT head CT was performed which 
showed no acute intercranial process. His medications were 
corrected to home dosing. On ___, EEG was initiated. On ___, 
he was witnessed to have some staring spells, on EEG there was 
no seizure activity. EEG was then discontinued as it was felt 
his seizures may not be accurately seen on EEG and to continue 
to treat clinically.

On ___ the patient's speech was much improved.  He continued to 
complain of double vision from his left sided ___ nerve palsy.  
He was seen by physical therapy and occupational therapy. OT 
recommended changing eye patch on each eye Q2H. He was 
determined safe to be discharged home on ___. 

At the time of discharge he was tolerating a regular diet, 
ambulating without difficulty, afebrile with stable vital signs.
 
Medications on Admission:
LACOSAMIDE 125 mg po bid; LAMOTRIGINE 300 mg
po bid; LORAZEPAM 0.5 mg po prn seizures, taking approximately
1x/week; ACETAMINOPHEN prn headache

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. lamotrigine 100 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).  
3. lacosamide 50 mg Tablet Sig: 2.5 Tablets PO BID (2 times a 
day).  
4. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
5. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left temporal lobe seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Have a friend/family member check your incision daily for 
signs of infection.
Take your pain medicine as prescribed.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
Your wound closure uses dissolvable sutures, you must keep 
that area dry for 10 days. 
You may shower before this time using a shower cap to cover 
your head.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
Fever greater than or equal to 101 F.

 
Followup Instructions:
___